US07524847B2
4-(2,8-Dichloro-9-methyl-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester
4-(2-Chloro-9-methyl-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester (7.3 g) was dissolved in N,N-dimethylformamide (70 mL), and then N-chlorosuccinimide (2.9 g) was added to this solution. The reaction solution was stirred at room temperature for 23 hours. Water (260 mL) was added to the reaction solution, and this was stirred at room temperature for one hour. A white precipitate was then collected by filtration. The white solid obtained was washed with water and hexane to give the title compound (8.6 g).

reactant | 4-(2-Chloro-9-methyl-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester | 7.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CN(C2=NC(=N1)Cl)C | C15H21ClN6O2
reactant | N-chlorosuccinimide | 2.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | 260 mL | O | H2O
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | 4-(2,8-Dichloro-9-methyl-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester | 8.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=C(N(C2=NC(=N1)Cl)C)Cl | C15H20Cl2N6O2
